US07888376B2
To an oven-dried round bottomed flask was added nBuLi (2.5 M in hexanes, 0.95 ml, 2.38 mmol, 1.17 eq) at −60° C. under N2. An Et2O solution (5 mL) of 2-bromo-4-trifluoromethylpyridine (448 mg, 2.0 mmol) was added dropwise at −60 to −55° C. The resulting solution was stirred at the above temperate for 30 min. The mixture was cooled to −78° C., an Et2O solution (2 mL) of 3-fluoro-5-trifluoromethyl-benzonitrile (390 g, 2.06 mmol) was added dropwise. The resulting solution was stirred −78 to −70° C. for 1.5 h. Pretreated TMSCl (0.26 ml) was added dropwise at −78° C. The mixture was stirred at −78° C. for 15 min, and then warmed up to r.t. for 45 min. It was cooled back to −78° C., and benzyl magnesium chloride (1.0 ml, 2.0 mmol) was added dropwise. The resulting mixture was stirred at −78° C. for 1 h, and then at r.t. for 0.5 h. It was quenched by adding sat'd NH4Cl and 1N HCl, and stirred for 10 min. It was extracted with EtOAc, washed with 1N NaOH, sat'd NaHCO3, H2O, brine, dried (MgSO4), filtered, and concentrated to dryness. The residue was purified by flash chromatography (silica gel, hexanes/EtOAc) to give 1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenyl-1-(4-(trifluoromethyl)pyridin-2-yl)ethanamine as light brownish gum (0.57 g, yield: 66.6%). LC-MS ESI (10-90% MeOH in H2O with 0.1% TFA in a 4-min run), retention time=3.32 min, 429.13 (M+H).

reactant | nBuLi | 2.38 mmol, 2.5 M, 0.95 ml, 1.17 eq | [Li]CCCC
reactant | 2-bromo-4-trifluoromethylpyridine | 2.0 mmol, 448 mg | BrC1=NC=CC(=C1)C(F)(F)F | C6H3BrF3N
reactant | 3-fluoro-5-trifluoromethyl-benzonitrile | 2.06 mmol, 390 g | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | TMSCl | 0.26 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzyl magnesium chloride | 2.0 mmol, 1.0 ml | C(C1=CC=CC=C1)[Mg]Cl
solvent | Et2O | 2 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenyl-1-(4-(trifluoromethyl)pyridin-2-yl)ethanamine | FC=1C=C(C=C(C1)C(F)(F)F)C(CC1=CC=CC=C1)(N)C1=NC=CC(=C1)C(F)(F)F | C21H15F7N2
